US05623081
In accordance with Scheme IV, benzyloxyacetaldehyde diethyl acetal is hydrolyzed with dilute sulfuric acid giving benzyloxyacetaldehyde, which is then reacted with allyl magnesium bromide to give 1-phenylmethoxy-4-penten-2-ol. This alcohol, is brominated with bromine in carbon tetrachloride or dichloromethane at -20° C. to 0° C. to give 4,5-dibromo-1-(phenylmethoxy)-2-pentanol. This dibromo alcohol, in aqueous methanol, is cyclized with calcium hydroxide in the presence of calcium bromide, to give a racemic mixture of trans and cis-4-bromo-2[(phenylmethoxy)methyl]tetrahydrofuran, IX and X respectively, which is separated by flash column chromatography using silica gel. The trans bromide, IX, is reacted with potassium thioacetate, in a dipolar aprotic solvent, to give cis-[5-[(phenylmethoxy)methyl]-3-tetrahydrofuranyl]ethanethioate, XI. The thioacetate, XI, is reacted with iodotrimethylsilane to give cis-[5-(hydroxymethyl)-3-tetrahydrofuranyl]ethanethioate, XIII. In the same manner, the cis bromide, X, is convened to the trans-[5-(hydroxymethyl)-3-tetra-hydrofuranyl]ethanethioate, XIV.

reactant | benzyloxyacetaldehyde diethyl acetal | C(C)OC(COCC1=CC=CC=C1)OCC | C13H20O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | benzyloxyacetaldehyde | C(C1=CC=CC=C1)OCC=O | C9H10O2
